US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1 -ylideneamino]-2-amino-4-(2,5-dimethoxyphenyl)-imidazole dihydrochloride
0.6 ml of concentrated hydrochloric acid is added, with stirring, to a mixture of 0.41 g (0.002 mol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 0.47 g (0.002 mol) of 1,2-diamino-4-(2,5-dimethoxyphenyl)-imidazole and 10 ml of isopropanol, and the reaction mixture is stirred at 80° C. for 3.hours. The reaction mixture is filtered while hot and the filtration product is washed with isopropanol and dried. In that manner there is obtained the title compound, m.p. >220° C., 1H-NMR (DMSO/D2 0): δ=8.23 (d, 1H); 7.75 (m, 2H); 7.61 (t, 1H); 7.17 (d, 1H); 7.07 (d, 1H); 6.93 (q, 1H); 3.82 (s, 3H), 3.71 (s, 3H); 3.25 (bs, 4H).

reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 0.002 mol, 0.41 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(2,5-dimethoxyphenyl)-imidazole | 0.002 mol, 0.47 g | NN1C(=NC(=C1)C1=C(C=CC(=C1)OC)OC)N | C11H14N4O2
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1 -ylideneamino]-2-amino-4-(2,5-dimethoxyphenyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=C(C=CC(=C1)OC)OC)N | InChI=1S/C21H22N6O3.2ClH/c1-29-12-6-9-19(30-2)16(10-12)18-11-27(21(23)24-18)25-17-8-7-13-14(17)4-3-5-15(13)20(22)26-28;;/h3-6,9-11,28H,7-8H2,1-2H3,(H2,22,26)(H2,23,24);2*1H
